US07074817B2
[1-Benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetic acid
[1-Benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetic acid was prepared from ethyl 2-[1-benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl]-2-oxoacetate (0.139 g, 0.319 mmol), and potassium hydroxide (0.076 g, 1.35 mmol) in THF (2.5 mL) and water (2.5 mL) following the procedure described in Step 4 of Example 5. Following work-up, and trituration of the residue with hexane, a solid was obtained. Drying for 12 hours at 82° C. yielded the title compound as a yellow solid (0.0836 g, 64%), mp: 153-156° C. Mass spectrum (−ESI, [M−H]−) m/z 406; 1HNMR (500 MHz, DMSO-d6): δ 13.8-14.2 (br s, 1H), 8.65 (s, 1H), 8.35 (m, 1H), 7.3-7.35 (m, 2H), 7.05-7.2 (m, 5H), 7.0 (s, 1H, J=7.1 Hz), 6.35 (d, 2H, J=6.9 Hz), 5.35 (d, 1H, J=16.6 Hz), and 5.15 ppm (d, 1H, J=16.6 Hz).

reactant | ethyl 2-[1-benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl]-2-oxoacetate | 0.319 mmol, 0.139 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC(=C12)C1=CC(=C(C=C1)F)Cl)C(C(=O)OCC)=O | C25H19ClFNO3
reactant | potassium hydroxide | 1.35 mmol, 0.076 g | [OH-].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
product | [1-Benzyl-7-(3-chloro-4-fluorophenyl)-1H-indol-3-yl](oxo)acetic acid | 0.0836 g, 64% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC(=C12)C1=CC(=C(C=C1)F)Cl)C(C(=O)O)=O | C23H15ClFNO3
